US06716851B2
4-(2,5-Dimethylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
A mixture of 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol), 2,5-dimethylaniline (36 μl, 0.290 mmol) and 2N HCl (150 μl) in water:ethanol (2:1, 10 ml) was refluxed for 24 h. The mixture was cooled to room temperature. The resulting precipitate was filtered, washed with water and aqueous ethanol to give a white solid (28 mg, 42%). 1H NMR (CDCl3): 8.77 (dd, J=1.5, 4.5 Hz, 2H), 8.27 (dd, J=1.5, 4.5 Hz, 2H), 7.24 (d, J=7.8 Hz, 1H), 7.18 (s, 1H),7.11 (dd, J=1.8,7.8 Hz, 1H), 6.99 (s, 1H), 6.62 (s, 1H), 2.38 (s, 3H), 2.25 (s, 3H).

reactant | 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 2,5-dimethylaniline | 0.290 mmol, 36 μl | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | HCl | 2N, 150 μl | Cl | ClH
solvent | water ethanol | 10 ml | O.C(C)O
product | 4-(2,5-Dimethylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | 28 mg, 42% | Cl.CC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C(C=C1)C | InChI=1S/C18H15F3N4.ClH/c1-11-3-4-12(2)14(9-11)23-16-10-15(18(19,20)21)24-17(25-16)13-5-7-22-8-6-13;/h3-10H,1-2H3,(H,23,24,25);1H
